US07514566B2
tert-Butyl 6-bromoisoquinolin-3-yl(methyl)carbamate (0.170 g, 0.50 mmol) was taken up in 3 mL of DMSO and transferred to a sealable tube. Bis(pinacolato)diboron (0.15 g, 0.60 mmol), potassium acetate (0.074 g, 0.76 mmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (0.01 8 g, 0.025 mmol) were added, and the mixture was purged with nitrogen. The tube was sealed. The mixture was heated to 80° C. and stirred for 2 hours. The mixture was then diluted with 30 mL of EtOAc and transferred to a separatory funnel. The mixture was washed three times with 20 mL of water and once with 20 mL of brine, then dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (2.5% to 15% EtOAc/hexanes) afforded tert-butyl methyl(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)carbamate (0.15 g, 77% yield) as a clear oil. 1H NMR (400 MHz, CDCl3) δ ppm 9.09 (s, 1H) 8.29 (s, 1H) 7.84-7.91 (m, 3H) 3.46 (s, 3H) 1.51 (s, 9H) 1.39 (s, 12H).

reactant | tert-Butyl 6-bromoisoquinolin-3-yl(methyl)carbamate | 0.50 mmol, 0.170 g | BrC=1C=C2C=C(N=CC2=CC1)N(C(OC(C)(C)C)=O)C | C15H17BrN2O2
reactant | Bis(pinacolato)diboron | 0.60 mmol, 0.15 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.76 mmol, 0.074 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 0.025 mmol, 8 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl methyl(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)carbamate | 0.15 g, 77% yield | CN(C(OC(C)(C)C)=O)C=1N=CC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C21H29BN2O4
